US07576122B2
Step D: 1-tert-Butyl-6-methoxy-3H-[1]benzothieno[2,3-c]pyran-3-one
A round bottom flask was charged with 0.460 g [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzothien-3-yl]acetic acid from the Step C above, 0.345 g HOBt hydrate, and 0.504 g EDC HCl salt. This mixture was dissolved in 15 mL anhydrous DMF and 0.582 g DIEA was added. The mixture turned bright yellow. After standing at room temperature overnight, the mixture was poured into water and extracted with ether several times. The combined ether extract was washed with water (4×), 5% NaHCO3, and saturated brine, dried over anhydrous Na2SO4, and evaporated to give the title compound as a bright yellow solid. 1H NMR (CDCl3, 500 MHz) 7.49 (d, 8.7 Hz, 1H), 7.35 (d, 2.5 Hz, 1H), 7.20 (dd, 2.5 & 8.9 Hz, 1H), 6.65 (s, 1H), 3.92 (s, 3H), 1.51 (s, 9H). LC-MS: 3.77 min. (m/Z=289.3).

reactant | [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzothien-3-yl]acetic acid | 0.460 g | CC(C(=O)C=1SC2=C(C1CC(=O)O)C=C(C=C2)OC)(C)C | C16H18O4S
reactant | HOBt hydrate | 0.345 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC HCl | 0.504 g | CCN=C=NCCCN(C)C.Cl
reactant | DIEA | 0.582 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-tert-Butyl-6-methoxy-3H-[1]benzothieno[2,3-c]pyran-3-one | C(C)(C)(C)C=1OC(C=C2C1SC1=C2C=C(C=C1)OC)=O | C16H16O3S
